US09340538B2
Ethyl 6-((3-carbamoylmorpholino)methyl)-4-(2,4-dichlorophenyl)-2-(thiazol-2-yl)-1,4-dihydropyrimidine-5-carboxylate
Ethyl 6-(bromomethyl)-4-(2,4-dichlorophenyl)-2-(thiazol-2-yl)-1,4-dihydropyrimidine-5-carboxylate (2.85 g, 6 mmol) was reacted with morpholine-3-carboxamide (0.78 g, 6 mmol) according to the procedure as described in Example 25, Step B to give the title compound as a yellow solid (1.54 g, 49%). The compound was characterized by the following spectroscopic data:

reactant | Ethyl 6-(bromomethyl)-4-(2,4-dichlorophenyl)-2-(thiazol-2-yl)-1,4-dihydropyrimidine-5-carboxylate | 6 mmol, 2.85 g | BrCC1=C(C(N=C(N1)C=1SC=CN1)C1=C(C=C(C=C1)Cl)Cl)C(=O)OCC | C17H14BrCl2N3O2S
reactant | morpholine-3-carboxamide | 6 mmol, 0.78 g | N1C(COCC1)C(=O)N | C5H10N2O2
product | Ethyl 6-((3-carbamoylmorpholino)methyl)-4-(2,4-dichlorophenyl)-2-(thiazol-2-yl)-1,4-dihydropyrimidine-5-carboxylate | 1.54 g, 49% | C(N)(=O)C1COCCN1CC1=C(C(N=C(N1)C=1SC=CN1)C1=C(C=C(C=C1)Cl)Cl)C(=O)OCC | C22H23Cl2N5O4S
